US05089654
To a solution of 5.50 g of 4-n-hexyl-2'-hydroxy-4'-(3-methyl-2-butenyloxy)chalcone in 55 ml of dry acetone was added 1.4 g of crushed potassium hydroxide. After stirring for 5 minutes, 2.40 g of ethyl bromoacetate was added, and the mixture was stirred at room temperature for 40 minutes. After completion of the reaction, the reaction mixture was neutralized by adding dropwise dilute hydrochloric acid with ice cooling. The precipitated solid was collected by filtration, washed with water, dried and recrystallized from ethanol to give 5.73 g of 2'-ethoxycarbonylmethoxy-4-n-hexyl-4'-(3-methyl-2-butenyloxy)chalcone as pale yellow needles.

reactant | 4-n-hexyl-2'-hydroxy-4'-(3-methyl-2-butenyloxy)chalcone | 5.50 g | C(CCCCC)C1=CC=C(C=C1)C=CC(=O)C1=C(C=C(C=C1)OCC=C(C)C)O | C26H32O3
reactant | potassium hydroxide | 1.4 g | [OH-].[K+]
reactant | ethyl bromoacetate | 2.40 g | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 55 ml | CC(=O)C | C3H6O
product | 2'-ethoxycarbonylmethoxy-4-n-hexyl-4'-(3-methyl-2-butenyloxy)chalcone | 5.73 g | C(C)OC(=O)COC1=C(C(C=CC2=CC=C(C=C2)CCCCCC)=O)C=CC(=C1)OCC=C(C)C | C30H38O5
